US06855719B1
2,4-Dichloro-1-(1-propylsulphamoyl)benzene
2,4-Dichlorobenzenesulphonyl chloride (500 mg 2.1 mmol) and 1-propylamine (0.2 ml, 2.4 mmol) in n-butanol (10 ml) was heated at reflux for 48 hour. The volatiles were removed by evaporation and the residue triturated with ether and the product collected by filtration to give the title compound. NMR: 0.78 (t, 3H), 1.35 (q, 2H), 2.79 (t, 2H), 7.60 (dd, 1H), 7.84 (d, 1H), 7.92 (d, 2H)

reactant | 2,4-Dichlorobenzenesulphonyl chloride | 2.1 mmol, 500 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 1-propylamine | 2.4 mmol, 0.2 ml | C(CC)N | C3H9N
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 2,4-Dichloro-1-(1-propylsulphamoyl)benzene | ClC1=C(C=CC(=C1)Cl)S(NCCC)(=O)=O | C9H11Cl2NO2S
